US07148242B2
(6-fluoro-pyridin-2-yl)-(4-methoxy-benzyl)-amine
To a solution of 2,6-di-fluoro-pyridine (2.2 g, 1 equiv.) in DMF (20 mL) is added 4-methoxy-benzylamine (5.6 g, 2.2 equiv.) and potassium carbonate (12 g, 4.4 equiv.). After heating at 50° C. for 16 hours, the solution is cooled to rt and filtered through Celite. The filtrate is concentrated under reduced pressure. The residue is purified by silica gel column chromatography using a gradient of hexane:EtOAc (19:1→4:1) to give the title compound.

reactant | 2,6-di-fluoro-pyridine | 2.2 g, 1 equiv. | FC1=NC(=CC=C1)F | C5H3F2N
reactant | 4-methoxy-benzylamine | 5.6 g, 2.2 equiv. | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | potassium carbonate | 12 g, 4.4 equiv. | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (6-fluoro-pyridin-2-yl)-(4-methoxy-benzyl)-amine | FC1=CC=CC(=N1)NCC1=CC=C(C=C1)OC | C13H13FN2O
